US05569768
Serine methyl ester (1.0 mmoles, 0.119 g), diisopropylethylamine (1.0 mmoles, 0.206 g), 2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazol-1-yl]octanoic acid (1.0 mmoles, 0.405 g), hydroxybenzotriazole (1.0 mole, 0.135 g), and dicyclohexylcarbodiimide (1.0 moles, 0.206 g) were reacted as in Example 37. The resulting ester (0.19 moles, 0.097 g) was hydrolyzed as in Example 37 to yield 0.052 g of N-[1-oxo-2-[5-[2-(2H-tetrazol-5-yl]phenyl]-1H-benzimidazol-1-yl]octyl]-L-serine (MS).

reactant | Serine methyl ester | 1.0 mmoles, 0.119 g | COC([C@@H](N)CO)=O | C4H9NO3
reactant | diisopropylethylamine | 1.0 mmoles, 0.206 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazol-1-yl]octanoic acid | 1.0 mmoles, 0.405 g | N=1NN=NC1C1=C(C=CC=C1)C1=CC2=C(N(C=N2)C(C(=O)O)CCCCCC)C=C1 | C22H24N6O2
reactant | hydroxybenzotriazole | 1.0 mole, 0.135 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 1.0 moles, 0.206 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | N-[1-oxo-2-[5-[2-(2H-tetrazol-5-yl]phenyl]-1H-benzimidazol-1-yl]octyl]-L-serine | 0.052 g | O=C(C(CCCCCC)N1C=NC2=C1C=CC(=C2)C2=C(C=CC=C2)C=2N=NNN2)N[C@@H](CO)C(=O)O | C25H29N7O4
